US04749713
A solution containing 4-methylimidazole (16.4 g), N,N-dimethylcarbamoyl chloride (30 g) and triethylamine (30 g) in acetonitrile (125 mL) is stirred at reflux for 20 hours. Upon cooling, the reaction is diluted with diethyl ether (1000 mL) and then filtered. The filtrate is concentrated and the residue is distilled under reduced pressure. 1-(Dimethylcarbamoyl)-4-methylimidazole is obtained as a colorless liquid, b.p. 104°-106° at 0.35 mm Hg.

reactant | 4-methylimidazole | 16.4 g | CC=1N=CNC1 | C4H6N2
reactant | N,N-dimethylcarbamoyl chloride | 30 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 30 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
solvent | diethyl ether | 1000 mL | C(C)OCC | C4H10O
product | 1-(Dimethylcarbamoyl)-4-methylimidazole | CN(C(=O)N1C=NC(=C1)C)C | C7H11N3O
